US05328637
6.45 ml of 1.6N butyllithium solution in n-hexane are added dropwise within 5 minutes at -50° C. to a solution of 3.15 g of 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluorobenzene and the reaction mixture is left to react at the same temperature for 3 hours. Then, a solution of 652 mg of propionaldehyde in 4 ml of tetrahydrofuran is added and the mixture is left to warm slowly to room temperature. After 15 hours it is treated with 10 ml of 1N hydrochloric acid, partitioned between methylene chloride and water, the organic phase is washed with saturated sodium bicarbonate solution and dried over anhydrous magnesium sulphate. Evaporation of the solvent and chromatography of the residue on silica gel with 5-20% ethyl acetate in petroleum ether gives 3.2 g of 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluoro-4(1-hydroxypropyl)-benzene.

reactant | butyllithium | 1.6N, 6.45 ml | C(CCC)[Li]
reactant | 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluorobenzene | 3.15 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=CC=C1)F)F | C23H22F2
reactant | propionaldehyde | 652 mg | C(CC)=O | C3H6O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluoro-4(1-hydroxypropyl)-benzene | 3.2 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=C(C=C1)C(CC)O)F)F | C26H28F2O
